US05100893
A mixture of 3.6 parts of propanethioamide, 8.6 parts of 2-bromo-1-(4-hydroxyphenyl)ethanone and 79 parts of ethanol was stirred for 7 hours at reflux temperature. The reaction mixture was concentrated to 1/4 of its volume and 2,2'-oxybispropane was added to the residue. The precipitate was filtered off and taken up in water. After basifying with NH4OH, the product was extracted with dichloromethane. The extract was dried, filtered and evaporated, yielding 3.3 parts (40.2%) of 4-(2-ethyl-4-thiazolyl)-phenol (interm. 17).

reactant | propanethioamide | C(CC)(N)=S | C3H7NS
reactant | 2-bromo-1-(4-hydroxyphenyl)ethanone | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
solvent | ethanol | C(C)O | C2H6O
product | 4-(2-ethyl-4-thiazolyl)-phenol | 40.2% | C(C)C=1SC=C(N1)C1=CC=C(C=C1)O | C11H11NOS
